US07687495B2
c) (2S,4R,5R)-5-Hydroxy-1,4-bis(4-methoxy-phenyl)piperidine-2-carboxylic acid ethyl ester
To a stirred solution of 19.5 g of (S)-1,4-bis-(4-methoxy-phenyl)-1,2,3,6-tetrahydro-pyridine-2-carboxylic acid ethyl ester in 400 ml of tetrahydrofuran are added 56 ml of a solution of borane-tetrahydrofuran (1M) at room temperature. The reaction mixture is heated to 40° C. for 2-6 hours, cooled to room temperature, and quenched by the addition of 50 ml of 2N sodium hydroxide solution and 100 ml of 30% hydrogen peroxide solution. The organic phase is separated, dried over sodium sulfate and concentrated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a yellow solid. Rf=0.33 (EtOAc-heptane 1:1); Rt=3.58.

reactant | (S)-1,4-bis-(4-methoxy-phenyl)-1,2,3,6-tetrahydro-pyridine-2-carboxylic acid ethyl ester | 19.5 g | C(C)OC(=O)[C@H]1N(CC=C(C1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C22H25NO4
reactant | borane tetrahydrofuran | 1M | B.O1CCCC1
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | (2S,4R,5R)-5-Hydroxy-1,4-bis(4-methoxy-phenyl)piperidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)O)C1=CC=C(C=C1)OC | C22H27NO5
